US08729025B2
FD lymphoblast lines were grown in RPMI-1640 and primary fibroblast lines in Dulbecco's modified Eagle's media (DMEM) with Earle's balanced salts. Both media were supplemented with 2 mM L-glutamine and 1% penicillin/streptomycin and either 10% (lymphoblast) or 20% (fibroblast) fetal bovine serum (Invitrogen). Kinetin was obtained from both MicroSource Discovery Systems and Sigma and dissolved at 10 mM in either DMSO or water. FD cells were cultured in the presence of kinetin for 72 hours except where noted. Benzyladenine, zeatin, and 2iP were obtained from Sigma and dissolved in DMSO at 10 mM. These compounds were tested at concentrations of 1 μM, 10 μM, 50 μM, and 100 μM. Cycloheximide was obtained from Sigma and dissolved at 10 mg/ml in DMSO. Cells were treated with 100 μM kinetin for eight hours, then 50 μg/ml cycloheximide was added to the cultures for four hours16.

reactant | L-glutamine | 2 mM | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | penicillin streptomycin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+].C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O
product | Kinetin | C=1C=C(OC1)CNC2=C3C(N=CN3)=NC=N2 | C10H9N5O
